US06211199B1
Combine (1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine (0.158 g, 0.5 mmol) and dimethylformamide (4 mL). Cool in an ice-bath. Add sodium hydride (0.013 g, 60% in oil, 55 mmol). Warm to ambient temperature. After 30 minutes, add a solution of 2-(methanesulfonyloxy)ethyl trifluoromethoxy ether (0.15 g, 0.75 mmol) in dimethylformamide (1 mL). Add sodium iodide (0.11 g, 075 mmol). After 2 hours, heat to 80° C. After 4 hours, cool to ambient temperature. After 18 hours dilute the reaction mixture with ethyl acetate and extract with brine. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with hexane, 30% ethyl acetate/hexane and then 50% ethyl acetate/hexane to give (1-(2-(trifluoromethoxy)ethyl)-1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine: Rf=0.26 (silica gel, 50% ethyl acetate/hexane).

reactant | (1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine | 0.5 mmol, 0.158 g | N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OC(C)(C)C | C17H24N4O2
reactant | sodium hydride | 55 mmol, 0.013 g | [H-].[Na+]
reactant | 2-(methanesulfonyloxy)ethyl trifluoromethoxy ether | 0.75 mmol, 0.15 g | FC(OOCCOS(=O)(=O)C)(F)F | C4H7F3O5S
reactant | sodium iodide | 0.11 g | [I-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | hexane | CCCCCC | C6H14
product | (1-(2-(trifluoromethoxy)ethyl)-1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine | FC(OCCN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OC(C)(C)C)(F)F | C20H27F3N4O3
